* Z:\celera\projects\Simplis\playcalum\Scratch\sim_SWITCH.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 150m 0

.globalvar VIN = 5.0
.globalvar REF = 1.0

X$SWITCH 2 3 0 SWITCH
V1 2 0 PWL NSEG=2 X0=0 Y0=0 X1=10u Y1=0 X2=20u Y2={VIN} 
** From Z:\celera\projects\Simplis\playcalum\Scratch\SWITCH.sxcmp
.subckt SWITCH 25 26 27
*#hierarchy
.node_map OUT 26
.node_map O0 28
.node_map O1 29
.node_map O2 30
.node_map enable 27
.node_map IN 25
X$pinprobe1 26 pinprobe vars: pinprobe_description='GMV_regulation_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$switch1 25 28 27 switchgnd vars: switch_type='gnd' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch2 28 29 27 switchsupply vars: switch_type='supply' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch3 29 30 27 switchtswitch vars: switch_type='tswitch' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch4 30 26 27 switchtransmission vars: switch_type='transmission' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch5 22 21 27 switchpullup vars: switch_type='pullup' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch6 24 23 27 switchpulldown vars: switch_type='pulldown' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$U1 25 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U8 27 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
.ends SWITCH

.end
